US08304407B2
Step D: Preparation of (E)-N,N-dimethyl-2-(2-nitro-4-(perfluoroethyl)phenyl)ethenamine (4):
To a solution of 1-methyl-2-nitro-4-(perfluoroethyl)benzene (10.0 g, 39.2 mmol) and pyrollidine (2.79 g, 39.2 mmol) in toluene (250 mL) was added dimethyl formamide dimethyl acetal (4.96 g, 39.2 mmol). The mixture was heated to reflux for 16 hours. After cooling to room temperature the mixture was concentrated under vacuum and the resulting oil was immediately used in the next reaction.

reactant | 1-methyl-2-nitro-4-(perfluoroethyl)benzene | 39.2 mmol, 10.0 g | CC1=C(C=C(C=C1)C(C(F)(F)F)(F)F)[N+](=O)[O-] | C9H6F5NO2
reactant | pyrollidine | 39.2 mmol, 2.79 g | N1CCCC1 | C4H9N
reactant | dimethyl formamide dimethyl acetal | 39.2 mmol, 4.96 g | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-N,N-dimethyl-2-(2-nitro-4-(perfluoroethyl)phenyl)ethenamine | CN(\C=C\C1=C(C=C(C=C1)C(C(F)(F)F)(F)F)[N+](=O)[O-])C | C12H11F5N2O2
